US03979430
A solution of 53.0 gm. of 3'-methylstilbene-2-carboxylic acid in 230 ml. dimethylformamide containing 2.0 gm. of 5% palladium on carbon is hydrogenated in a Parr shaker at 60 p.s.i. for 11/2 hours. The solution is filtered and added to ether and water. The organic layer is washed with water, then dried and evaporated. The product is recrystallized from ether-hexane to give 48 gm., 90%, of 3-(o-carboxyphenethyl)toluene, m.p. 82°-84°C. Use of 3'-ethylenestilbene-2-carboxylic acid gives a similar yield of 3-(o-carboxyphenethyl)ethylbenzene.

reactant | 3'-methylstilbene-2-carboxylic acid | CC=1C=C(C=CC=2C(=CC=CC2)C(=O)O)C=CC1 | C16H14O2
reactant | 3-(o-carboxyphenethyl)toluene | C(=O)(O)C1=C(CCC=2C=C(C=CC2)C)C=CC=C1 | C16H16O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | dimethylformamide | 2.0 gm | CN(C=O)C | C3H7NO
product | 3-(o-carboxyphenethyl)ethylbenzene | C(=O)(O)C1=C(CCCCC=2C=CC=CC2)C=CC=C1 | C17H18O2
